US06465507B2
1-(6-Fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-6,7-dihydro-2H-pyrano[3,4-c]pyrrol-4-one
6-Fluoro-1,3-dihydro-indol-2-one was condensed with 4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrole-1-carbaldehyde to give the title compound.

reactant | 6-Fluoro-1,3-dihydro-indol-2-one | FC1=CC=C2CC(NC2=C1)=O | C8H6FNO
reactant | 4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrole-1-carbaldehyde | O=C1OCCC=2C1=CNC2C=O | C8H7NO3
product | 1-(6-Fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-6,7-dihydro-2H-pyrano[3,4-c]pyrrol-4-one | FC1=CC=C2C(C(NC2=C1)=O)=CC1=C2C(=CN1)C(OCC2)=O | C16H11FN2O3
